### PR TITLE
[Merged by Bors] - chore: bump toolchain to v4.3.0-rc1

### PR DESCRIPTION
**Pull request by kim-em**
This incorporates changes from 

* #7845
* #7847
* #7853
* #7872 (was never actually made to work, but the diffs in `nightly-testing` are unexciting: we need to fully qualify a few names)

They can all be closed when this is merged.

---

- [x] depends on: leanprover/std4#338

Once the std PR is merged, we need to change the `lakefile.lean` here to point back to `main`. ✅ 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
!bench

File: lakefile.lean [hunk 1]
```diff
@@ -48,7 +48,7 @@ require «doc-gen4» from git "https://github.com/leanprover/doc-gen4" @ "main"
 
 require std from git "https://github.com/leanprover/std4" @ "main"
 require Qq from git "https://github.com/leanprover-community/quote4" @ "master"
-require aesop from git "https://github.com/leanprover-community/aesop" @ "master"
+require aesop from git "https://github.com/leanprover-community/aesop" @ "nightly-testing"
```
Comment (eric-wieser) [inline lakefile.lean:51]: I assume this needs changing before merging?

File: Mathlib/Algebra/Order/CompleteField.lean [hunk 2]
```diff
@@ -155,7 +155,8 @@ theorem cutMap_add (a b : α) : cutMap β (a + b) = cutMap β a + cutMap β b :=
       rw [coe_mem_cutMap_iff]
       exact_mod_cast sub_lt_comm.mp hq₁q
   · rintro _ ⟨_, _, ⟨qa, ha, rfl⟩, ⟨qb, hb, rfl⟩, rfl⟩
-    refine' ⟨qa + qb, _, by norm_cast⟩
+    -- After leanprover/lean4#2734, `norm_cast` needs help with beta reduction.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/CompleteField.lean:158]: This looks like a possibly regression to me (and the only one in this patch); can you explain what's going on in the PR description, and maybe open a tracking issue for fixing this to be referenced there too?

File: lakefile.lean (hunk 1 above)
Comment (semorrison) [reply lakefile.lean:51]: Oops, thank you, missed that one!

File: Mathlib/Algebra/Order/CompleteField.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Algebra/Order/CompleteField.lean:158]: Tracking issue at #8052.

(Also, since you read these diffs I've changed these regressions to use `beta_reduce` or `unfold_let` specifically, instead of a blind `dsimp`.)

File: lakefile.lean (hunk 1 above)
Comment (semorrison) [reply lakefile.lean]: Fixed now.

**Comment by semorrison** [comment]
!bench

**Comment by eric-wieser** [comment]
Ouch, what happened to `Mathlib.CategoryTheory.Functor.Flat`?

File: Mathlib/Data/Complex/Module.lean [hunk 3]
```diff
@@ -481,7 +481,7 @@ lemma IsSelfAdjoint.coe_realPart {x : A} (hx : IsSelfAdjoint x) :
 
 lemma IsSelfAdjoint.imaginaryPart {x : A} (hx : IsSelfAdjoint x) :
     ℑ x = 0 := by
-  rw [imaginaryPart, LinearMap.comp_apply, hx.skewAdjointPart_apply _, map_zero]
+  rw [_root_.imaginaryPart, LinearMap.comp_apply, hx.skewAdjointPart_apply _, map_zero]
```
Comment (eric-wieser) [inline Mathlib/Data/Complex/Module.lean:484]: This isn't the same thing as was in #7872... I'll push a fix.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!

**Comment by eric-wieser** [comment]
bors p=10

**Comment by eric-wieser** [comment]
bors single on
